US05283248
A solution of 1-[2-(N-ethylamino)-5-fluoro-4-(4-methyl-1-piperazinyl]phenyl-urea (640 mg) in methanol is treated with a freshly prepared methanolic solution of sodium methylate (from 150 mg of sodium) and heated under reflux for a short time. After cooling the solution is treated with diethyl malonate and stirred for 6 hours. The solution obtained is poured into a mixture of ice and 2N HCl (50 ml). The methanol is evaporated and the aqueous phase is extracted with ethyl acetate (3×100 ml) and methylene chloride (2×100 ml). After drying over magnesium sulfate the solvent mixture is evaporated and the residue is suspended in a small amount of cold ethyl acetate and filtered off. There are obtained 130 mg (17%) of 5-ethyl-8-fluoro-7-(4-methyl-1-piperazinyl)pyrimido[1,6-a]benzimidazole-1,3(2H,5H)-dione.

reactant | 2-(N-ethylamino)-5-fluoro-4-(4-methyl-1-piperazinyl]phenyl-urea | 640 mg | C(C)NC1=C(C=C(C(=C1)N1CCN(CC1)C)F)NC(=O)N | C14H22FN5O
reactant | sodium methylate | 150 mg | C[O-].[Na+]
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | HCl | 2N, 50 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 5-ethyl-8-fluoro-7-(4-methyl-1-piperazinyl)pyrimido[1,6-a]benzimidazole-1,3(2H,5H)-dione | 130 mg, 17% | C(C)N1C=2N(C3=C1C=C(C(=C3)F)N3CCN(CC3)C)C(NC(C2)=O)=O | C17H20FN5O2
